2117-03-15 10:25:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failiure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   patient with Lasix given and HCO3- elevation to 50
   She had overnight significant elevations in PCO2
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2117-3-15**] 10:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.6
C (97.9
   HR: 84 (84 - 84) bpm
   BP: 132/55(76) {132/55(76) - 132/55(76)} mmHg
   RR: 19 (19 - 19) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                  PO:
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                      0 mL
                                                                    110 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                   -110 mL
   Respiratory support
   O2 Delivery Device: Trach mask , Tracheostomy tube
   SpO2: 97%
   ABG: ////
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic, Tracheostomy in place
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: No(t) Wheezes : , Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   160
   1.2
   49
   3.9
   14
   97
   148
   31.7
   6.1
        [image002.jpg]
   Fluid analysis / Other labs: 7.33/93/84-->
   7.31/94/111-->
   7.37/89/73-->
   7.34/95/76
   Assessment and Plan
   78 yo female with h/o HTN, DM, OSA--s/p trach for Rx and now with
   return admission from medical floor following brief stay in ICU
   initially.  She now, on the medical floor had FIO2 weaned successfully,
   she had Lasix dosing continued on the floor.  In addition, she had
   hypoxemia transiently overnight which improved wtih oxygen support
   replaced.  ABG across the night had evidence of significant hypercarbia
   in the setting of sleep and recent diuresis with significant elevations
   in HCO3-.  Given worsening in PCO2 patient to ICU for further care.
   Upon review of events overnight patient had significant contraction
   alkalosis in the setting of lasix patient has evolved significant
   metabolic contraction and elevations in PCO2.  In addition
patient does
   have persistent elevation in RR which is in the setting of poor air
   movement with each breath consistent with inadequate ventilation.  This
   may be related to drive and inability to effectively  ventilate
   1)Respiratory Failure-Will not have rapid correction to normal PCO2
   without support given persistent elevation in the setting of rapid
   shallow breathing at this time.
   -Will change to cuffed trach and provide ventilatory support until
   stabilized
   -Will continue to correct serum HCO3---with hold of Lasix and start of
   diamox
   -Will ventilate to goal PCO2 of 70-80 at maximum
   ICU Care
   Nutrition: npo
   Glycemic Control:
   Lines:
   22 Gauge - [**2117-3-15**] 09:48 AM
   Prophylaxis:
   DVT: Coumadin to restart
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35

2117-03-16 06:52:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: hypercarbia
   24 Hour Events:
   - CXR: No significant change in pulmonary edema in the setting of
   cardiomegaly. Retrospectively the left lower lung consolidation is
   similar but now better appreciated.
   - ABG at 1:40 pm 7.44/80/69/56
   - FiO2 requirement increased to 70% for short periods. Back on 50% now.
   - Mental status cont. to wax and wane
   - hematuria worse
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2117-3-15**] 01:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2117-3-16**] 06:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 35.9
C (96.7
   HR: 90 (76 - 91) bpm
   BP: 155/58(82) {117/40(61) - 155/71(87)} mmHg
   RR: 17 (14 - 24) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    495 mL
                                                                     60 mL
   PO:
                                                                    420 mL
             TF:
   IVF:
                                                                     75 mL
                                                                     60 mL
   Blood products:
   Total out:
                                                                    895 mL
                                                                    470 mL
   Urine:
                                                                    785 mL
                                                                    470 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -400 mL
                                                                   -410 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 92%
   ABG: 7.37/85.[**Numeric Identifier 128**]/69/49/19
   PaO2 / FiO2: 138
   Physical Examination
   General: chronically ill appearing
   HEENT: Sclera anicteric, MMM, oropharynx clear, tongue protruding from
   mouth, no tongue lac visible
   Neck: unable to assess JVP, + trach
   Lungs: poor inspiratory effort, +rhonchi and upper airway sounds,
   otherwise clear anteriorly though with poor inspiratory effort.
   CV: irregular rate and rhythm, normal S1 + S2, no murmurs, rubs,
   gallops
   Abdomen:  obese, soft, non-tender, non-distended, bowel sounds present,
   no rebound tenderness or guarding, no organomegaly
   Ext: Warm, well perfused, 2+ pulses, + b/l 1+ pretibial edema
   Labs / Radiology
   165 K/uL
   9.4 g/dL
   128 mg/dL
   1.2 mg/dL
   49 mEq/L
   3.8 mEq/L
   14 mg/dL
   97 mEq/L
   147 mEq/L
   30.6 %
   4.7 K/uL
        [image002.jpg]
                             [**2117-3-15**]  01:39 PM
                             [**2117-3-15**]  05:05 PM
                             [**2117-3-15**]  10:57 PM
                             [**2117-3-16**]  03:45 AM
   WBC
   4.7
   Hct
   30.6
   Plt
   165
   Cr
   1.2
   1.2
   TCO2
   56
   51
   Glucose
   98
   128
   Other labs: PT / PTT / INR:19.8/31.5/1.8, Differential-Neuts:72.7 %,
   Lymph:19.4 %, Mono:7.2 %, Eos:0.5 %, Lactic Acid:0.7 mmol/L, Ca++:8.3
   mg/dL, Mg++:2.1 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   This is a 78 yo female with diastolic CHF, s/p trach, HTN, DM, A. fib
   on coumadin, admitted with hypoxia and CHF exacerbation now with
   hypercarbic respiratory failure.
   .
   # Hypercarbic respiratory failure: Unclear precipitant.  No clear
   evidence of infiltrate or other infectious process.  She apparently had
   been requiring increased oxygen supplementation over the last 24 hours
   and had been off her trach mask during part of the night.  Currently,
   FiO2 has been at 70% which she had been tolerating up until this
   point.  Also has metabolic alkalosis likely due to aggressive diuresis
   leading to contraction alkalosis.  In that setting, patient likely has
   decreased respiratory drive with subsequent ineffective ventilation
   leading to hypercarbia.
   - Will change out trach to cuffed trach
   - BiPAP to improved PCO2 and decrease HCO3 to baseline
   - Hold further diuresis for now
   - Repeat CXR now post diuresis to see if there has been any improvement
   or worsening
   .
   # Hypoxia: Most recent episode was in the setting of being off trach
   mask overnight.  Also, as above, has decreased ventilatory drive and
   possibly ineffective oxygenation.  Has been treated for CHF
   exacerbation with aggressive diuresis with improved oxygenation over
   the last several days.  Also, continuing to have pulmonary secretions,
   though still afebrile and without leukocytosis to suggest pna.  Initial
   sputum sample with oropharyngeal flora.
   - Send sputum cx if develops fever, wbc, increased pulmonary secretions
   - Hold on further lasix diuresis for now given contraction alkalosis
   - Chest pt
   - Cxr after diuresis to look for infiltrate as above
   - Follow WBC, fever
   - Albuterol, atrovent nebs
   .
   # Anemia:  At baseline.  Most recent anemia studies in [**Month (only) 102**] c/w
   iron deficiency anemia.  Prior [**Last Name (un) **] shows diverticulosis.
   - iron supplementaion
   - follow Hct
   .
   # Hypernatremia:
   - follow Na
   - encourage free water PO, hold on any IV free water
   .
   # Renal failure:  Fluctuating baseline, but currently lower than on
   discharge in spite of diuresis
   - follow Cr
   - renally dose all meds
   - avoid nephrotoxins
   .
   # CAD:  Positive tropnonin with normal ck, likely demand in setting of
   renal dysfunction. NO acute ekg changes.
   - ruled out for MI
   - continue simvastatin
   .
   # Thrombocytopenia:  Unclear etiology, but has had precipitous decline
   over last few weeks.  Perhaps secondary to med effect.  Does not appear
   to be on heparin at rehab.
   - trend platelets
   .
   # H/o A. fib:  On coumadin initially here with supratherapeutic INR.
   Now subtherapeutic.
   - Restart coumadin
   .
   # HTN:
   - lisinpril
   .
   # Breast cancer:
   - Arimidex
   .
   # Gout:
   - continue colchicine
   .
   FEN: No IVF, replete electrolytes, regular diet - npo for now while
   somnolent
   .
   Prophylaxis: dc subq heparin, restart coumadin as above, no indication
   for ppi
   .
   Access: peripherals
   .
   Code: full, confirmed with patient and HCP
   .
   Communication: Patient, sister [**Name (NI) 8504**] [**Name (NI) 1000**] [**Telephone/Fax (1) 8505**], [**Telephone/Fax (1) 8506**]
   .
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2117-3-15**] 09:48 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2117-03-16 12:00:00 Physician Attending Progress Note
Chief Complaint: Repiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   FIO2 at 0.35 this morning
   Patient
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2117-3-15**] 01:30 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Flowsheet Data as of  [**2117-3-16**] 11:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.9
C (98.4
   HR: 77 (76 - 92) bpm
   BP: 117/40(58) {117/40(58) - 159/71(88)} mmHg
   RR: 16 (15 - 24) insp/min
   SpO2: 98%
   Heart rhythm: RBBB (Right Bundle Branch Block)
             Total In:
                                                                    495 mL
                                                                    411 mL
   PO:
                                                                    420 mL
                                                                    240 mL
   TF:
   IVF:
                                                                     75 mL
                                                                    171 mL
   Blood products:
   Total out:
                                                                    895 mL
                                                                    920 mL
   Urine:
                                                                    785 mL
                                                                    920 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -400 mL
                                                                   -509 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 98%
   ABG: 7.37/85.[**Numeric Identifier 128**]/69/49/19
   PaO2 / FiO2: 197
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Tactile
   stimuli, Movement: Not assessed, Tone: Not assessed, Very dynamic
   mental status across the morning with difficulty to arouse
   Labs / Radiology
   9.4 g/dL
   165 K/uL
   128 mg/dL
   1.2 mg/dL
   49 mEq/L
   3.8 mEq/L
   14 mg/dL
   97 mEq/L
   147 mEq/L
   30.6 %
   4.7 K/uL
        [image002.jpg]
                             [**2117-3-15**]  01:39 PM
                             [**2117-3-15**]  05:05 PM
                             [**2117-3-15**]  10:57 PM
                             [**2117-3-16**]  03:45 AM
   WBC
   4.7
   Hct
   30.6
   Plt
   165
   Cr
   1.2
   1.2
   TCO2
   56
   51
   Glucose
   98
   128
   Other labs: PT / PTT / INR:19.8/31.5/1.8, Differential-Neuts:72.7 %,
   Lymph:19.4 %, Mono:7.2 %, Eos:0.5 %, Lactic Acid:0.7 mmol/L, Ca++:8.3
   mg/dL, Mg++:2.1 mg/dL, PO4:2.7 mg/dL
   Fluid analysis / Other labs: 7.37/85/69
   Imaging: CXR--Cardiomegaly
   Microbiology: SPutum--Proteus and GPC's
   Assessment and Plan
   78 yo female with significant obesity/hypoventilation who now has
   persistent ventilatory failure in the setting of "compensated" pH.
   This may be driven by significant hypercarbia across the night and with
   diurnal presence of significant elevations in HCO3- she has a drive to
   keep PCO2 only at 85-90 which is unacceptable.  She has need to correct
   severe metabolic alkalosis and will move through Diamox and Arginine Cl
   to correct metabolic alkalosis and hope to see full continued increase
   in ventilatory drive.
   1)respiratory Failure-
   -Correct Metabolic Alkalosis
   -Will move to PSV support as needed
   -Do not see current evidence of significant new overwhelming infection
   or pulmonary edema so expect good response to correction metabolic
   abnormality
   ICU Care
   Nutrition: po diet
   Glycemic Control:
   Lines:
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2117-03-17 07:02:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: hypercarbia
   24 Hour Events:
   - OOB to chair with PT
   - Bicarb trending down after L-arginine and Diamox
   - Given 1L NS over 4 hrs for decreased UOP at 2115, remained oliguric
   overnight
   - 1L NS this morning, repeat ABG
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2117-3-17**] 07:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.5
C (97.7
   HR: 62 (57 - 92) bpm
   BP: 64/46(49) {64/28(43) - 159/65(88)} mmHg
   RR: 23 (15 - 27) insp/min
   SpO2: 91%
   Heart rhythm: RBBB (Right Bundle Branch Block)
             Total In:
                                                                  1,599 mL
                                                                    437 mL
   PO:
                                                                    820 mL
             TF:
   IVF:
                                                                    779 mL
                                                                    437 mL
   Blood products:
   Total out:
                                                                  1,180 mL
                                                                     45 mL
   Urine:
                                                                  1,180 mL
                                                                     45 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    419 mL
                                                                    392 mL
   Respiratory support
   O2 Delivery Device: Trach mask
 35% last 24H
   SpO2: 91%
   ABG: 7.37 / 77 / 75 / 43
   Physical Examination
   General: chronically ill appearing, drowsy but arousable
   HEENT: Sclera anicteric, MMM, oropharynx clear, no tongue lac visible
   Neck: unable to assess JVP, + trach
   Lungs: poor inspiratory effort, decreased breath sounds, clear
   CV: decreased HS, irregular rate and rhythm, normal S1 + S2, no murmurs
   Abdomen:  obese, soft, non-tender, non-distended, bowel sounds present,
   no rebound tenderness or guarding, no organomegaly
   Ext: Warm, well perfused, 2+ pulses, + b/l 1+ pretibial edema
   Labs / Radiology
   176 K/uL
   9.6 g/dL
   130 mg/dL
   1.6 mg/dL
   40 mEq/L
   4.7 mEq/L
   28 mg/dL
   102 mEq/L
   144 mEq/L
   31.9 %
   5.9 K/uL
        [image002.jpg]
                             [**2117-3-15**]  01:39 PM
                             [**2117-3-15**]  05:05 PM
                             [**2117-3-15**]  10:57 PM
                             [**2117-3-16**]  03:45 AM
                             [**2117-3-16**]  04:15 PM
                             [**2117-3-17**]  03:39 AM
   WBC
   4.7
   5.9
   Hct
   30.6
   31.9
   Plt
   165
   176
   Cr
   1.2
   1.2
   1.2
   1.6
   TCO2
   56
   51
   Glucose
   98
   128
   166
   130
   Other labs: PT / PTT / INR:20.8/31.3/2.0, Ca++:8.3 mg/dL, Mg++:2.0
   mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   This is a 78 yo female with diastolic CHF, s/p trach, HTN, DM, A. fib
   on coumadin, admitted with hypoxia and CHF exacerbation now with
   hypercarbic respiratory failure.
   .
   # Hypercarbic respiratory failure: Unclear precipitant, though patient
   does have obesity hypoventilation syndrome.  No clear evidence of
   infiltrate or other infectious process.  Patient has also been
   aggressively diuresed on this admission so doubt that pulmonary edema
   is contributing significantly at this point.  FiO2 weaned to 35%, her
   baseline, and patient stable on this for over 24H.  Most likely her
   metabolic alkalosis from diuresis lead to decreased respiratory drive
   with subsequent ineffective ventilation leading to hypercarbia.
   Hypercarbia and metabolic alkalosis improved after potassium chloride,
   diamox, and arginine chloride.
   - cont. acetazolamide today
 250 mg TID
   - recheck lytes this evening
   - consider change out trach to cuffed trach & putting on vent overnight
   if unable to decrease HCO3
   - Hold further diuresis for now
   .
   # Hypoxia: Resolved.  Patient now back to baseline O2 requirement.
   Event on the floor in the setting of being off trach mask overnight.
   Also, as above, has decreased ventilatory drive and possibly
   ineffective oxygenation.  Has been treated for CHF exacerbation with
   aggressive diuresis with improved oxygenation over the last several
   days.  Sputum sample not suggestive of active infection.
   - Hold on further lasix diuresis for now given contraction alkalosis
   and elevated creatinine
   - Chest pt
   - Albuterol, atrovent nebs
   .
   # Anemia:  At baseline.  Most recent anemia studies in [**Month (only) 102**] c/w
   iron deficiency anemia.  Prior [**Last Name (un) **] shows diverticulosis.
   - iron supplementaion
   - follow Hct
   .
   # Hypernatremia:  unchanged
   - follow Na
   - encourage free water PO, hold on any IV free water
   .
   # Renal failure:  Elevated from 1.2 to 1.6 this morning, likely related
   to dehydration given concomitant oliguria.  Received IVF overnight.
   - follow Cr
   - additional IVF if necessary
   - renally dose all meds
   - avoid nephrotoxins
   .
   # CAD:  Positive tropnonin with normal ck, likely demand in setting of
   renal dysfunction. NO acute ekg changes.
   - ruled out for MI
   - continue simvastatin
   .
   # Thrombocytopenia:  Platelets now actually increased.  Unclear
   etiology, but has had precipitous decline over last few weeks.  Perhaps
   secondary to med effect.  Does not appear to be on heparin at rehab.
   - trend platelets
   .
   # H/o A. fib:  On coumadin initially here with supratherapeutic INR.
   Now subtherapeutic.
   - Restart coumadin
   .
   # HTN:
   - hold lisinopril today given ARF.
   .
   # Breast cancer:
   - Arimidex
   .
   # Gout:
   - continue colchicine
   .
   FEN: No IVF, replete electrolytes, regular diet - npo for now while
   somnolent
   .
   Prophylaxis: dc subq heparin, restart coumadin as above, no indication
   for ppi
   .
   Access: peripherals
   .
   Code: full, confirmed with patient and HCP
   .
   Communication: Patient, sister [**Name (NI) 8504**] [**Name (NI) 1000**] [**Telephone/Fax (1) 8505**],
   [**Telephone/Fax (1) 8506**]; need to discuss with family possible need for
   ventillatory  support at night.
   .
   Dispo: consider direct discharge to pulmonary rehab. Will discuss with
   case management.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2117-3-16**] 12:44 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2117-03-17 11:11:00 Physician Attending Progress Note
Chief Complaint: Hypercarbic Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   HCO3-decreased
   patient up with PT today
   Had 1 liter NS over 4 hours for decreased urine output
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Flowsheet Data as of  [**2117-3-17**] 11:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.4
C (97.5
   HR: 81 (57 - 87) bpm
   BP: 115/48(64) {64/28(43) - 117/49(64)} mmHg
   RR: 14 (14 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,599 mL
                                                                    476 mL
   PO:
                                                                    820 mL
             TF:
   IVF:
                                                                    779 mL
                                                                    476 mL
   Blood products:
   Total out:
                                                                  1,180 mL
                                                                    220 mL
   Urine:
                                                                  1,180 mL
                                                                    220 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    419 mL
                                                                    256 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 100%
   ABG: 7.34/77/75/40/11
   PaO2 / FiO2: 214
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
patient does respond too tactile stimulus but has minimal
   response to verbal stimuli but does not have hearing aids in place.
   Labs / Radiology
   9.6 g/dL
   176 K/uL
   130 mg/dL
   1.6 mg/dL
   40 mEq/L
   4.7 mEq/L
   28 mg/dL
   102 mEq/L
   144 mEq/L
   31.9 %
   5.9 K/uL
        [image002.jpg]
                             [**2117-3-15**]  01:39 PM
                             [**2117-3-15**]  05:05 PM
                             [**2117-3-15**]  10:57 PM
                             [**2117-3-16**]  03:45 AM
                             [**2117-3-16**]  04:15 PM
                             [**2117-3-17**]  03:39 AM
                             [**2117-3-17**]  07:54 AM
   WBC
   4.7
   5.9
   Hct
   30.6
   31.9
   Plt
   165
   176
   Cr
   1.2
   1.2
   1.2
   1.6
   TCO2
   56
   51
   43
   Glucose
   98
   128
   166
   130
   Other labs: PT / PTT / INR:20.8/31.3/2.0, Differential-Neuts:72.7 %,
   Lymph:19.4 %, Mono:7.2 %, Eos:0.5 %, Lactic Acid:0.7 mmol/L, Ca++:8.3
   mg/dL, Mg++:2.0 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   78 yo female with history of obesity and OSA--s/p trach--who is
   admitted to ICU with hypercarbic respiratory failure and has clear
   evidence of metabolic alkalosis in the setting of diuresis.  She has
   had some improvement in PCO2 with partial correction of metabolic
   alkalosis with Cl replacement.  ABG was 7.37/77/75 and HCO3-improve to
   40.  Her recent course is complicated by oliguria and concern for
   worsening renal failure which may well be pre-renal azotemia.
   1)Respiratory Failure
Some improvement in ventilation with correction
   of metabolic alkalosis.  Will provide continued support for both
   hypercarbia and metabolic alkalosis
   -Will provide NS to replace volume which does appear to be deplete
   -24 more hours diamox
   -Will use ABG
s to consider NIV support
   -Will need to consider long term nocturnal ventilatory support for care
   for her
   2)Hypoxemia
patient at baseline FIO2 requirement
   3)Acute Renal Failure-
   -Will have to evaluate for possible pre-renal source of failure
   -Provide small volume saline today
   -Check urine lytes
   4)altered mental status-
   -Will have to follow exam today
   -replace hearing aid
   -Is concerning decrease in altertness but may be related to metabolic
   picture and will have to consider eval further
   ICU Care
   Nutrition: Regular Diet
   Glycemic Control:
   Lines:
   20 Gauge - [**2117-3-16**] 12:44 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2117-03-18 07:19:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Urine chloride 23, but was drawn hours after urine output increased
   after IVF
   - spoke with patient's sister to encourage long-term pulmonary
   follow-up and regarding possible need for ventilatory support at night
   in the future.  Also discussed placement:  Sister is very concerned
   about nursing care at prior [**Hospital1 169**] and knows that pt does not want to
   return there; concerned pt. may "act out" and not participate in rehab
   if she goes back.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2117-3-18**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.6
C (97.9
   HR: 83 (75 - 91) bpm
   BP: 112/52(67) {104/38(55) - 130/57(72)} mmHg
   RR: 19 (14 - 24) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,117 mL
                                                                    123 mL
   PO:
                                                                    560 mL
             TF:
   IVF:
                                                                  1,557 mL
                                                                    123 mL
   Blood products:
   Total out:
                                                                  1,070 mL
                                                                    530 mL
   Urine:
                                                                  1,070 mL
                                                                    530 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,047 mL
                                                                   -407 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 94%
   ABG: 7.34/77/75/38/11
   PaO2 / FiO2: 188
   Physical Examination
   General: chronically ill appearing, drowsy but arousable, mouthing
   words
   HEENT: Sclera anicteric, MMM, oropharynx clear, no tongue lac visible
   Neck: unable to assess JVP, + trach
   Lungs: poor inspiratory effort, decreased breath sounds, clear
   CV: decreased HS, irregular rate and rhythm, normal S1 + S2, no murmurs
   Abdomen:  obese, soft, non-tender, non-distended, bowel sounds present,
   no rebound tenderness or guarding, no organomegaly
   Ext: Warm, well perfused, 2+ pulses, + b/l 1+ pretibial edema
   Labs / Radiology
   185 K/uL
   9.2 g/dL
   89 mg/dL
   1.4 mg/dL
   38 mEq/L
   4.3 mEq/L
   26 mg/dL
   105 mEq/L
   145 mEq/L
   30.2 %
   4.9 K/uL
        [image002.jpg]
                             [**2117-3-15**]  01:39 PM
                             [**2117-3-15**]  05:05 PM
                             [**2117-3-15**]  10:57 PM
                             [**2117-3-16**]  03:45 AM
                             [**2117-3-16**]  04:15 PM
                             [**2117-3-17**]  03:39 AM
                             [**2117-3-17**]  07:54 AM
                             [**2117-3-17**]  06:15 PM
                             [**2117-3-18**]  03:56 AM
   WBC
   4.7
   5.9
   4.9
   Hct
   30.6
   31.9
   30.2
   Plt
   165
   176
   185
   Cr
   1.2
   1.2
   1.2
   1.6
   1.5
   1.4
   TCO2
   56
   51
   43
   Glucose
   98
   128
   166
   130
   117
   89
   Other labs: PT / PTT / INR:23.6/32.9/2.3, Differential-Neuts:72.7 %,
   Lymph:19.4 %, Mono:7.2 %, Eos:0.5 %, Lactic Acid:0.7 mmol/L, Ca++:8.4
   mg/dL, Mg++:2.0 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   This is a 78 yo female with diastolic CHF, s/p trach, HTN, DM, A. fib
   on coumadin, admitted with hypoxia and CHF exacerbation now with
   hypercarbic respiratory failure.
   .
   # Hypercarbic respiratory failure: Unclear precipitant, though patient
   does have obesity hypoventilation syndrome.  No clear evidence of
   infiltrate or other infectious process.  Patient has also been
   aggressively diuresed on this admission so doubt that pulmonary edema
   is contributing significantly at this point.  FiO2 weaned to 35%, her
   baseline, and patient stable on this for over 24H.  Most likely her
   metabolic alkalosis from diuresis lead to decreased respiratory drive
   with subsequent ineffective ventilation leading to hypercarbia.
   Hypercarbia and metabolic alkalosis improved after potassium chloride,
   diamox, and arginine chloride.
   - cont. acetazolamide today
 250 mg TID
   .
   # Hypoxia: Resolved.  Patient now back to baseline O2 requirement.
   Event on the floor in the setting of being off trach mask overnight.
   Also, as above, has decreased ventilatory drive and possibly
   ineffective oxygenation.  Has been treated for CHF exacerbation with
   aggressive diuresis with improved oxygenation over the last several
   days.  Sputum sample not suggestive of active infection. Will need
   standing Lasix as outpatient.
   - Hold on further lasix diuresis for now given contraction alkalosis
   and elevated creatinine
   - Chest PT
   - Albuterol, atrovent nebs
   .
   # Renal insufficiency:  Improved from 1.6 to 1.4, likely related to
   dehydration given concomitant oliguria.  Received IVF with improvement
   in UOP and Cr.
   - follow Cr
   - additional IVF if necessary
   - renally dose all meds
   - avoid nephrotoxins
   .
   # Anemia:  At baseline and stable.  Most recent anemia studies in
   [**Month (only) 102**] c/w iron deficiency anemia.  Prior [**Last Name (un) **] shows diverticulosis.
   - iron supplementaion
   - follow HCT
   .
   # Hypernatremia:  stable
   - follow Na
   - encourage free water PO, hold on any IV free water
   .
   # CAD:  Positive tropnonin with normal ck, likely demand in setting of
   renal dysfunction. NO acute ekg changes. Ruled out for MI
   - continue simvastatin
   .
   # Thrombocytopenia:  Resolved.  Unclear etiology, but has had
   precipitous decline over last few weeks.  Perhaps secondary to med
   effect.  Does not appear to be on heparin at rehab.
   - trend platelets
   .
   # H/o A. fib:  Restarted coumadin and now therapeutic.
   - Cont coumadin, follow PT/INR
   .
   # HTN:
   - Cont lisinopril as renal function improving
   .
   # Breast cancer:
   - Arimidex
   .
   # Gout:
   - continue colchicine
   .
   FEN: replete electrolytes, regular diet
   .
   Prophylaxis: therapeutic on coumadin, no indication for ppi
   .
   Access: peripherals
   .
   Code: full, confirmed with patient and HCP
   .
   Communication: Patient, sister [**Name (NI) 8504**] [**Name (NI) 1000**] [**Telephone/Fax (1) 8505**],
   [**Telephone/Fax (1) 8506**]; Case Management trying to find placement
   .
   Dispo: consider direct discharge to pulmonary rehab. Will discuss with
   case management.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2117-3-16**] 12:44 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2117-03-18 11:06:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure--Acute and Chronic
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Patieny with improved HCO3- and appears to have increased alertness and
   was up in bed eating [**Country 3489**] [**Location (un) **] this morning.
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2117-3-18**] 11:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.2
C (97.1
   HR: 84 (75 - 91) bpm
   BP: 132/56(74) {104/31(53) - 132/57(74)} mmHg
   RR: 20 (14 - 24) insp/min
   SpO2: 93%
   Heart rhythm: 1st AV (First degree AV Block)
             Total In:
                                                                  2,117 mL
                                                                    400 mL
   PO:
                                                                    560 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  1,557 mL
                                                                    160 mL
   Blood products:
   Total out:
                                                                  1,070 mL
                                                                    830 mL
   Urine:
                                                                  1,070 mL
                                                                    830 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,047 mL
                                                                   -430 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 93%
   ABG: ///38/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.2 g/dL
   185 K/uL
   89 mg/dL
   1.4 mg/dL
   38 mEq/L
   4.3 mEq/L
   26 mg/dL
   105 mEq/L
   145 mEq/L
   30.2 %
   4.9 K/uL
        [image002.jpg]
                             [**2117-3-15**]  01:39 PM
                             [**2117-3-15**]  05:05 PM
                             [**2117-3-15**]  10:57 PM
                             [**2117-3-16**]  03:45 AM
                             [**2117-3-16**]  04:15 PM
                             [**2117-3-17**]  03:39 AM
                             [**2117-3-17**]  07:54 AM
                             [**2117-3-17**]  06:15 PM
                             [**2117-3-18**]  03:56 AM
   WBC
   4.7
   5.9
   4.9
   Hct
   30.6
   31.9
   30.2
   Plt
   165
   176
   185
   Cr
   1.2
   1.2
   1.2
   1.6
   1.5
   1.4
   TCO2
   56
   51
   43
   Glucose
   98
   128
   166
   130
   117
   89
   Other labs: PT / PTT / INR:23.6/32.9/2.3, Differential-Neuts:72.7 %,
   Lymph:19.4 %, Mono:7.2 %, Eos:0.5 %, Lactic Acid:0.7 mmol/L, Ca++:8.4
   mg/dL, Mg++:2.0 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   78 yo female with CHF and chronic ventilatory failure.  She has had
   improvement to baseline FIO2 and with HCO3- down to what may well be in
   the range of her chronic and compensated respiratory failure.
   1)Respiratory Failure-
   -Tach mask in place
   -Goal HCO3-=34
   2)Acute Renal Failure-
   -Improved creatinine noted with some volume replacement but mainly with
   minimization of diuresis
   Additional Issues to be addressed as defined in the housestaff note of
   this date.
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 .H/O ATRIAL FLUTTER (AFLUTTER)
 ANEMIA, CHRONIC
 .H/O DIABETES MELLITUS (DM), TYPE II
 .H/O OBSTRUCTIVE SLEEP APNEA (OSA)
 .H/O RESPIRATORY FAILURE, CHRONIC
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2117-3-16**] 12:44 PM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor/discharge to high level nursing facility
   Total time spent: 40 minutes